US08809382B2
Step 2 (2-Hexyl-1H-indole)
2-Hex-1-enyl-1H-indole was dissolved in ethanol and 10% palladium on carbon was added to the solution. The reaction flask was sealed and exposed to hydrogen gas under pressure until the hydrogen gas consumption was stopped completely. The reaction mixture was filtered through Celite. The solvent was evaporated to afford the product.

reactant | 2-Hex-1-enyl-1H-indole | C(=CCCCC)C=1NC2=CC=CC=C2C1 | C14H17N
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-Hexyl-1H-indole | C(CCCCC)C=1NC2=CC=CC=C2C1 | C14H19N
